US09126950B2
A solution of ethyl 2-(4-((4-((3-acrylamidophenyl)amino)-5-fluoropyrimidin-2-yl)amino)phenoxy)acetate (0.300 g) in methanol was cooled to 0° C. and a solution of LiOH.H2O (0.056 g) in water was added. The reaction mixture was stirred at room temperate for 2 hr. The reaction was monitored on TLC using CHCl3:methanol (8:2) as mobile phase. After completion of the reaction, methanol was removed under reduced pressure and water was added. The aqueous layer was washed with ethyl acetate, acidified with acetic acid and the solid precipitate was filtered and washed with water. Solid material was dried under vacuumed at 45° C. to give 0.115 g of 2-(4-((4-((3-acrylamidophenyl)amino)-5-fluoropyrimidin-2-yl)amino)phenoxy)acetic acid. 1H NMR: DMSO-d6 (400 MHz): 4.492 (s, 2H), 5.740-5.767 (d, 1H, J=10.8), 6.238-6.280 (d, 1H, J=16.8), 6.446-6.513 (dd, 1H, J=6.8, 10), 6.717-6.739 (d, 2H, J=8.8), 7.252-7.292 (t, 1H, J=8), 7.377-7.396 (d, 1H, J=7.6), 7.502-7.523 (d, 3H, J=7.6), 7.961 (s, 1H), 8.060-8.068 (d, 1H, J=3.2), 8.988 (s, 1H), 9.386 (s, 1H), 10.191 (s, 1H).

reactant | ethyl 2-(4-((4-((3-acrylamidophenyl)amino)-5-fluoropyrimidin-2-yl)amino)phenoxy)acetate | 0.300 g | C(C=C)(=O)NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(OCC(=O)OCC)C=C1 | C23H22FN5O4
reactant | LiOH.H2O | 0.056 g | O[Li].O
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-(4-((4-((3-acrylamidophenyl)amino)-5-fluoropyrimidin-2-yl)amino)phenoxy)acetic acid | 0.115 g | C(C=C)(=O)NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(OCC(=O)O)C=C1 | C21H18FN5O4
